US06599925B2
2-{[6-(3-Pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetonitrile
Following the procedure described in Method A, Step 5 of Example 1, the title compound was prepared from 1-[2-(6-hydroxy-2-naphthyl)-1-benzofuran-3-yl]-1-pentanone (0.600 g, 1.74 mmol), sodium hydride (0.106 g, 2.65 mmol of a 60% dispersion on mineral oil) and bromoacetonitrile (0.18 mL, 2.6 mmol) in DMF (10 mL). Purification by flash chromatography using 60-80% chloroform in hexane as an eluant afforded a thick yellow oil (0.359 g). 1HNMR (200 MHz, DMSO-d6): δ8.45 (s, 1H), 8.0-8.2 (m, 3H), 7.85-7.95 (m, 1H), 7.7-7.8 (m, 1H), 7.65 (d, 1H, J=2.0 Hz), 7.35-7.5 (m, 1H), 5.35 (s, 2H), 2.75 (t, 2H, J=7.4 Hz), 1.45-1.65 (m, 2H), 1.05-1.25 (m, 2H), and 0.7 ppm (t, 3H, J=7.4 Hz).

reactant | 1-[2-(6-hydroxy-2-naphthyl)-1-benzofuran-3-yl]-1-pentanone | 1.74 mmol, 0.600 g | OC=1C=C2C=CC(=CC2=CC1)C=1OC2=C(C1C(CCCC)=O)C=CC=C2 | C23H20O3
reactant | sodium hydride | [H-].[Na+]
reactant | bromoacetonitrile | 2.6 mmol, 0.18 mL | BrCC#N | C2H2BrN
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 2-{[6-(3-Pentanoyl-1-benzofuran-2-yl)-2-naphthyl]oxy}acetonitrile | C(CCCC)(=O)C1=C(OC2=C1C=CC=C2)C=2C=C1C=CC(=CC1=CC2)OCC#N | C25H21NO3
